### PR TITLE
[Merged by Bors] - feat: add theorem cast_subgroup_of_units_card_ne_zero

### PR DESCRIPTION
**Pull request by BoltonBailey**
Adds a theorem saying the cardinality of a multiplicative subgroup of a field, cast to the field, is nonzero. As well as `sum_subgroup_units_zero_of_ne_bot` and other theorems about summing over multiplicative subgroups.

Co-authored-by: Pratyush Mishra <prat@upenn.edu>
Co-authored-by:  Buster <rcopley@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 1]
```diff
@@ -166,6 +166,32 @@ theorem cast_card_eq_zero : (q : K) = 0 := by
   simp
 #align finite_field.cast_card_eq_zero FiniteField.cast_card_eq_zero
 
+theorem cast_subgroup_of_units_card_ne_zero [DecidableEq K]
+    (G : Subgroup (Units (K))) [Fintype G] : (Fintype.card G : K) ≠ 0 := by
```
Comment (eric-wieser) [inline Mathlib/FieldTheory/Finite/Basic.lean:170]: I'm confused by this statement; isn't the cardinality of _any_ subgroup non-zero because it contains 1?

Comment (BoltonBailey) [reply Mathlib/FieldTheory/Finite/Basic.lean:170]: Or maybe you're interested in infinite fields as well? Let me see if anything fails when I remove the finiteness from the field.

**Comment by BoltonBailey** [comment]
Note: this is true for [infinite fields too](https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/cast_subgroup_of_units_card_ne_zero.20for.20infinite.20fields/near/384013573), so I should generalize it.

File: Mathlib/FieldTheory/Finite/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/FieldTheory/Finite/Basic.lean:170]: Oh, I just totally missed the cast!

**Comment by jcommelin** [comment]
Could you please reformat your `co-authored-by` line? It takes an email address (+ name) as argument. One co-author per line. See for example #3464.

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 2]
```diff
@@ -179,6 +179,33 @@ theorem forall_pow_eq_one_iff (i : ℕ) : (∀ x : Kˣ, x ^ i = 1) ↔ q - 1 ∣
       rw [← pow_mul, mul_comm, pow_mul, h, one_pow]
 #align finite_field.forall_pow_eq_one_iff FiniteField.forall_pow_eq_one_iff
 
+theorem cast_subgroup_of_units_card_ne_zero {F : Type} [Field F]
+  (G : Subgroup Fˣ) [Fintype G] : (Fintype.card G : F) ≠ 0 := by
```
Comment (jcommelin) [inline Mathlib/FieldTheory/Finite/Basic.lean:183]:
```suggestion
    (G : Subgroup Fˣ) [Fintype G] : (Fintype.card G : F) ≠ 0 := by
```

**Comment by BoltonBailey** [comment]
Also, not aware if Buster (that's their Zulip handle) wants their email shared publically.

File: Mathlib/Data/Fintype/Basic.lean [hunk 3]
```diff
@@ -1187,13 +1187,27 @@ end Trunc
...
 
 @[simp]
 theorem count_univ (a : α) : count a Finset.univ.val = 1 :=
   count_eq_one_of_mem Finset.univ.nodup (Finset.mem_univ _)
 #align multiset.count_univ Multiset.count_univ
 
+/-- If f is a bijection of finite sets, it maps universes into universes. -/
+@[simp]
+theorem map_univ_eq_univ_of_bijective (f : α → β) (hf : Function.Bijective f) :
+    map f (Finset.univ : Finset α).val = univ.val := by
```
Comment (ocfnash) [inline Mathlib/Data/Fintype/Basic.lean:1200]:
```suggestion
/-- If `e` is an equivalence of finite types, then `Multiset.map e` sends the universal finite set
to the universal finite set. -/
@[simp]
theorem _root_.Equiv.multiset_map_univ_eq_univ (e : α ≃ β) :
    map e univ.val = univ.val := by
```

File: Mathlib/Data/Fintype/Basic.lean [hunk 4]
```diff
@@ -1187,13 +1187,27 @@ end Trunc
 
 namespace Multiset
 
-variable [Fintype α] [DecidableEq α]
+variable [Fintype α] [DecidableEq α] [Fintype β] [DecidableEq β]
```
Comment (ocfnash) [inline Mathlib/Data/Fintype/Basic.lean:1190]: It looks like you don't need this
```suggestion
variable [Fintype α] [DecidableEq α] [Fintype β]
```
(you might need to use `classical` in the proof)

File: Mathlib/Data/Fintype/Basic.lean (hunk 3 above)
Comment (BoltonBailey) [reply Mathlib/Data/Fintype/Basic.lean]: Looks like there's actually a Finset version called `Finset.map_univ_equiv` so I'll name this analogously. LMK if you really want this name.

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 5]
```diff
@@ -179,6 +179,33 @@ theorem forall_pow_eq_one_iff (i : ℕ) : (∀ x : Kˣ, x ^ i = 1) ↔ q - 1 ∣
...
+    -- u ^ p = 1 implies (u - 1) ^ p = 0 and hence u = 1 ...
+    have h : u = 1 := by
+      rw [← sub_left_inj, sub_self 1]
+      apply pow_eq_zero (n := p)
+      rw [sub_pow_char (R := F) (p := p) u 1, one_pow, ← hu, pow_orderOf_eq_one]
+      exact sub_self 1
+    -- ... meaning x didn't have order p after all, contradiction
+    apply ne_of_lt $ Nat.Prime.one_lt pprime
+    rw [← hu, h]
+    exact orderOf_one.symm
```
Comment (ericrbg) [inline Mathlib/FieldTheory/Finite/Basic.lean:207]: A few golfs, and actually this holds for a not-necessarily commutative ring with no zero divisors & nontrivial, and I don't see why it would hold in more generality than this.

`<|` is preferred in Lean4 to `$`, as far as I can see. 

```suggestion
theorem cast_subgroup_of_units_card_ne_zero {F : Type} [Ring F] [NoZeroDivisors F] [Nontrivial F]
    (G : Subgroup Fˣ) [Fintype G] : (Fintype.card G : F) ≠ 0 := by
  let n := Fintype.card G
  intro nzero
  have ⟨p, char_p⟩ := CharP.exists F
  have hd : p ∣ n := (CharP.cast_eq_zero_iff F p n).mp nzero
  cases CharP.char_is_prime_or_zero F p with
  | inr pzero =>
    exact (Fintype.card_pos).ne' <| Nat.eq_zero_of_zero_dvd <| pzero ▸ hd
  | inl pprime =>
    have fact_pprime := Fact.mk pprime
    -- G has an element x of order p by Cauchy's theorem
    have ⟨x, hx⟩ := exists_prime_orderOf_dvd_card p hd
    -- F has an element u (= ↑↑x) of order p
    let u := ((x : Fˣ) : F)
    have hu : orderOf u = p := by rwa [orderOf_units, orderOf_subgroup]
    -- u ^ p = 1 implies (u - 1) ^ p = 0 and hence u = 1 ...
    have h : u = 1 := by
      rw [← sub_left_inj, sub_self 1]
      apply pow_eq_zero (n := p)
      rw [sub_pow_char_of_commute, one_pow, ← hu, pow_orderOf_eq_one, sub_self]
      exact Commute.one_right u
    -- ... meaning x didn't have order p after all, contradiction
    apply pprime.one_lt.ne
    rw [← hu, h, orderOf_one]
```

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 6]
```diff
@@ -201,6 +228,84 @@ theorem sum_pow_units [DecidableEq K] (i : ℕ) :
...
+theorem sum_subgroup_units {G : Subgroup Kˣ} [Fintype G] [Decidable (G = ⊥)] :
+    ∑ x : G, (x.val : K) = if G = ⊥ then 1 else 0 := by
+  by_cases G_bot : G = ⊥
+  · subst G_bot
+    simp only [ite_true, Subgroup.mem_bot, Fintype.card_ofSubsingleton, Nat.cast_ite, Nat.cast_one,
+      Nat.cast_zero, univ_unique, Set.default_coe_singleton, sum_singleton, Units.val_one]
+  · simp only [G_bot, ite_false]
+    exact sum_subgroup_units_zero_of_ne_bot K G_bot
+
+-- example [Group G] (a : G) : G ≃ G := by
```
Comment (ericrbg) [inline Mathlib/FieldTheory/Finite/Basic.lean:271]: remove this!

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 7]
```diff
@@ -201,6 +228,84 @@ theorem sum_pow_units [DecidableEq K] (i : ℕ) :
...
 
+/-- The sum of a nontrivial subgroup of the units of a field is zero. -/
+theorem sum_subgroup_units_zero_of_ne_bot {G : Subgroup Kˣ} [Fintype G] (hg : G ≠ ⊥) :
+    ∑ x : G, (x.val : K) = 0 := by
+  rw [Subgroup.ne_bot_iff_exists_ne_one] at hg
+  rcases hg with ⟨a, ha⟩
+  -- The action of a on G as an embedding
+  have hinj := mul_right_injective a
+  let a_mul_emb : G ↪ G := ⟨(a * ·), hinj⟩
+  -- let a_mul_emb : G ↪ G := by exact mulLeftEmbedding a -- TODO factor this? In library?
```
Comment (ericrbg) [inline Mathlib/FieldTheory/Finite/Basic.lean:239]: you should be using `:= mulLeftEmbedding a` -- why aren't you?

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 8]
```diff
@@ -201,6 +228,84 @@ theorem sum_pow_units [DecidableEq K] (i : ℕ) :
...
+  -- Therefore the sum of x over a G is the sum of a x over G
+  have h_sum_map := Finset.univ.sum_map a_mul_emb fun x => ((x : Kˣ) : K)
+  -- ... and the former is the sum of x over G.
+  -- By algebraic manipulation, we have Σ G, x = ∑ G, a x = a ∑ G, x
+  rw [h_unchanged, Function.Embedding.coeFn_mk] at h_sum_map
+  simp_rw [Subgroup.coe_mul, Units.val_mul, ← Finset.mul_sum] at h_sum_map
+  -- thus one of (a - 1) or ∑ G, x is zero
+  have hzero : (((a : Kˣ) : K) - 1) = 0 ∨ ∑ x : ↥G, ((x : Kˣ) : K) = 0 := by
+    rw [←mul_eq_zero, sub_mul, ← h_sum_map, one_mul, sub_self]
+  rcases hzero with h | h
```
Comment (ericrbg) [inline Mathlib/FieldTheory/Finite/Basic.lean:251]: this could be golfed using something like `or.resolve_right` or stuff

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 9]
```diff
@@ -201,6 +228,84 @@ theorem sum_pow_units [DecidableEq K] (i : ℕ) :
...
+    exfalso
+    apply ha
+    ext
+    rw [←sub_eq_zero]
+    exact h
+  · -- If the latter, we are done
+    exact h
+
+/-- The sum of a subgroup of the units of a field is 1 if the subgroup is trivial and 1 otherwise -/
+theorem sum_subgroup_units {G : Subgroup Kˣ} [Fintype G] [Decidable (G = ⊥)] :
```
Comment (ericrbg) [inline Mathlib/FieldTheory/Finite/Basic.lean:262]:
```suggestion
theorem sum_subgroup_units {G : Subgroup Kˣ} [Fintype G] :
```

and use `classical` instead in the proof, or even `rcases eq_or_ne G \bot with rfl | G_bot`

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 10]
```diff
@@ -201,6 +228,84 @@ theorem sum_pow_units [DecidableEq K] (i : ℕ) :
...
+  · subst G_bot
+    simp only [ite_true, Subgroup.mem_bot, Fintype.card_ofSubsingleton, Nat.cast_ite, Nat.cast_one,
+      Nat.cast_zero, univ_unique, Set.default_coe_singleton, sum_singleton, Units.val_one]
+  · simp only [G_bot, ite_false]
+    exact sum_subgroup_units_zero_of_ne_bot K G_bot
+
+-- example [Group G] (a : G) : G ≃ G := by
+--   exact Equiv.inv (sorryAx (Type ?u.888298) true)
+
+theorem sum_subgroup_pow_eq_zero {F : Type} [Field F] [Fintype F]
```
Comment (ericrbg) [inline Mathlib/FieldTheory/Finite/Basic.lean:274]: could you refactor the theorems such as `sum_pow_lt_card_sub_one` to now be acorollary of this? I'll have a look at this proof closer later!

Comment (ericrbg) [reply Mathlib/FieldTheory/Finite/Basic.lean:274]: also I'd probably call it `sum_pow_subgroup_eq_zero`

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 11]
```diff
@@ -201,6 +228,84 @@ theorem sum_pow_units [DecidableEq K] (i : ℕ) :
         apply forall_congr'; intro x; simp [Units.ext_iff]
 #align finite_field.sum_pow_units FiniteField.sum_pow_units
 
+/-- The sum of a nontrivial subgroup of the units of a field is zero. -/
+theorem sum_subgroup_units_zero_of_ne_bot {G : Subgroup Kˣ} [Fintype G] (hg : G ≠ ⊥) :
```
Comment (ericrbg) [inline Mathlib/FieldTheory/Finite/Basic.lean:232]:
```suggestion
theorem sum_subgroup_units_eq_zero {G : Subgroup Kˣ} [Fintype G] (hg : G ≠ ⊥) :
```

I'm sure that the `of_ne_bot` can be figured out later, and usually we spell these theorems with `_eq`.

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 12]
```diff
@@ -179,6 +179,33 @@ theorem forall_pow_eq_one_iff (i : ℕ) : (∀ x : Kˣ, x ^ i = 1) ↔ q - 1 ∣
       rw [← pow_mul, mul_comm, pow_mul, h, one_pow]
 #align finite_field.forall_pow_eq_one_iff FiniteField.forall_pow_eq_one_iff
 
+theorem cast_subgroup_of_units_card_ne_zero {F : Type} [Field F]
```
Comment (ericrbg) [inline Mathlib/FieldTheory/Finite/Basic.lean:182]:
```suggestion
theorem card_cast_subgroup_card_ne_zero {F : Type} [Field F]
```

maybe? I feel like it must be a subgroup of the units automatically anyways, I don't like this name 100% either but better than the original name (the `_card` gets lost within the `_of_units`)

File: Mathlib/GroupTheory/OrderOfElement.lean [hunk 13]
```diff
@@ -923,6 +923,12 @@ theorem orderOf_eq_card_zpowers : orderOf x = Fintype.card (zpowers x) :=
 #align order_eq_card_zpowers orderOf_eq_card_zpowers
 #align add_order_eq_card_zmultiples addOrderOf_eq_card_zmultiples
 
+@[to_additive]
+theorem subgroup_zpowers_card_le {G : Type} [Group G] [Fintype G] (a : G) (k : ℕ) (k_pos : 0 < k)
```
Comment (ericrbg) [inline Mathlib/GroupTheory/OrderOfElement.lean:927]:
```suggestion
theorem card_zpowers_le {G : Type} [Group G] [Fintype G] (a : G) (k : ℕ) (k_pos : 0 < k)
```

File: Mathlib/GroupTheory/Subgroup/Basic.lean [hunk 14]
```diff
@@ -932,16 +932,21 @@ theorem nontrivial_iff_exists_ne_one (H : Subgroup G) : Nontrivial H ↔ ∃ x 
 #align subgroup.nontrivial_iff_exists_ne_one Subgroup.nontrivial_iff_exists_ne_one
 #align add_subgroup.nontrivial_iff_exists_ne_zero AddSubgroup.nontrivial_iff_exists_ne_zero
 
+@[to_additive]
+theorem exists_ne_one_of_nontrivial {H : Subgroup G} [Nontrivial H] :
+    ∃ x : G, x ∈ H ∧ x ≠ 1 := by
```
Comment (ericrbg) [inline Mathlib/GroupTheory/Subgroup/Basic.lean:937]:
```suggestion
    ∃ x ∈ H ∧ x ≠ 1 := by
```

does this work?

**Review by ericrbg — COMMENTED** [review]
some preliminary comments - sorry I took so long to get around to this!

File: Mathlib/FieldTheory/Finite/Basic.lean (hunk 5 above)
Comment (BoltonBailey) [reply Mathlib/FieldTheory/Finite/Basic.lean:207]: Nice catch on the generality!

File: Mathlib/Data/Fintype/Basic.lean [hunk 15]
```diff
@@ -1190,13 +1190,20 @@ end Trunc
...
 
-variable [Fintype α] [DecidableEq α]
+variable [Fintype α] [DecidableEq α] [Fintype β]
 
 @[simp]
 theorem count_univ (a : α) : count a Finset.univ.val = 1 :=
   count_eq_one_of_mem Finset.univ.nodup (Finset.mem_univ _)
 #align multiset.count_univ Multiset.count_univ
 
+/-- If `e` is an equivalence of finite types, then `Multiset.map e` sends the universal finite set
```
[the remark this answers is not in the document]
Comment (BoltonBailey) [reply Mathlib/Data/Fintype/Basic.lean:1200]: Ok, I'll just delete it

File: Mathlib/FieldTheory/Finite/Basic.lean (hunk 7 above)
Comment (BoltonBailey) [reply Mathlib/FieldTheory/Finite/Basic.lean:238]: I had trouble swapping these out, If you want me to I can try harder.

Comment (BoltonBailey) [reply Mathlib/FieldTheory/Finite/Basic.lean]: Ok I figured it out

File: Mathlib/FieldTheory/Finite/Basic.lean (hunk 9 above)
Comment (BoltonBailey) [reply Mathlib/FieldTheory/Finite/Basic.lean:258]: It is impossible to state the type of the conclusion without this

File: Mathlib/FieldTheory/Finite/Basic.lean (hunk 10 above)
Comment (BoltonBailey) [reply Mathlib/FieldTheory/Finite/Basic.lean:267]: I tried this, but `exists_pow_ne_one_of_isCyclic` is supposed to take a Type, whereas `sum_pow_lt_card_sub_one` is polymorphic over universes for the Field, and that seemed to cause issues.

It's sort of tragic that this is the case, I shouldn't have to deal with this for meat and potatoes theorems about fields.

Comment (BoltonBailey) [reply Mathlib/FieldTheory/Finite/Basic.lean:267]: Notice that `sum_subgroup_pow_eq_zero` specifies a type `F` for the field different from the polymorphic one that the rest of the lemmas in this section get. Should I move the lemma? Should I fix `exists_pow_ne_one_of_isCyclic` to be polymorphic? Should I fix `K` to be `Type`?

Comment (BoltonBailey) [reply Mathlib/FieldTheory/Finite/Basic.lean:267]: In fact the problems are weirder, there is one K shadowing another.

Comment (BoltonBailey) [reply Mathlib/FieldTheory/Finite/Basic.lean:267]: I feel this is a question for the zulip

Comment (tb65536) [reply Mathlib/FieldTheory/Finite/Basic.lean:267]: I think you should try to make everything universe polymorphic, if possible

Comment (BoltonBailey) [reply Mathlib/FieldTheory/Finite/Basic.lean]: Ok, I have just gone and made exists_pow_ne_one_of_isCyclic polymorphic, feel free to golf the other proof if you'd like.

File: Mathlib/FieldTheory/Finite/Basic.lean (hunk 9 above)
Comment (BoltonBailey) [reply Mathlib/FieldTheory/Finite/Basic.lean:258]: Note that the above lemma has a decidability assumption as well. Happy to get more guidance on how to remove this if possible.

**Comment by BoltonBailey** [comment]
@ericrbg The `DecidableEq` instance is needed for the rest of the lemma statement, let me know what you want done about that.

File: Mathlib/FieldTheory/Finite/Basic.lean (hunk 9 above)
Comment (ericrbg) [reply Mathlib/FieldTheory/Finite/Basic.lean:258]: Oh, d'oh, yes the ITE depends on it!

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 16]
```diff
@@ -152,6 +152,18 @@ theorem orderOf_eq_card_of_forall_mem_zpowers [Fintype α] {g : α} (hx : ∀ x,
...
+theorem exists_pow_ne_one_of_isCyclic {G : Type*} [Group G] [Fintype G] [G_cyclic : IsCyclic G]
+  {k : ℕ} (k_pos : 0 < k) (k_lt_card_G : k < Fintype.card G) : ∃ a : G, a ^ k ≠ 1 := by
+  rcases G_cyclic with ⟨a, ha⟩
+  use a
+  contrapose! k_lt_card_G
+  convert orderOf_le_of_pow_eq_one k_pos k_lt_card_G
+  rw [orderOf_eq_card_zpowers, eq_comm, Subgroup.card_eq_iff_eq_top]
+  ext x
+  simp only [Subgroup.mem_top, implies_true, iff_true]
+  exact ha x
```
Comment (ericrbg) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:165]:
```suggestion
  rw [orderOf_eq_card_zpowers, eq_comm, Subgroup.card_eq_iff_eq_top, eq_top_iff]
  exact fun x _ ↦ ha x
```

**Review by ericrbg — COMMENTED** [review]
looking good!

**Comment by BoltonBailey** [comment]
I tried to do the golf, but was not getting it. Maybe actually `sum_pow_units` can be golfed too?

**Comment by BoltonBailey** [comment]
Given that everything apparently turned out to be true in NoZeroDivisor rings, I'd be interested to know if the preexisting lemmas in this file can be generalized along those lines.

**Comment by BoltonBailey** [comment]
This is as far as I got
```
/-- The sum of `x ^ i` as `x` ranges over a finite field of cardinality `q`
is equal to `0` if `i < q - 1`. -/
theorem sum_pow_lt_card_sub_one (i : ℕ) (h : i < q - 1) : ∑ x : K, x ^ i = 0 := by
  by_cases hi : i = 0
  · simp only [hi, nsmul_one, sum_const, pow_zero, card_univ, cast_card_eq_zero]
  classical
    -- have hiq : ¬q - 1 ∣ i := by contrapose! h; exact Nat.le_of_dvd (Nat.pos_of_ne_zero hi) h
    let φ : Kˣ ↪ K := ⟨fun x ↦ x, Units.ext⟩
    have : univ.map φ = univ \ {0} := by
      ext x
      simp only [true_and_iff, Function.Embedding.coeFn_mk, mem_sdiff, Units.exists_iff_ne_zero,
        mem_univ, mem_map, exists_prop_of_true, mem_singleton]
    calc
      ∑ x : K, x ^ i = ∑ x in univ \ {(0 : K)}, x ^ i := by
        rw [← sum_sdiff ({0} : Finset K).subset_univ, sum_singleton,
          zero_pow (Nat.pos_of_ne_zero hi), add_zero]
      _ = ∑ x : Kˣ, (x ^ i : K) := by simp [← this, univ.sum_map φ]
      _ = 0 := by 
        sorry
        -- convert sum_subgroup_pow_eq_zero (G := ⊤) (k := i) hi _
#align finite_field.sum_pow_lt_card_sub_one FiniteField.sum_pow_lt_card_sub_one
```

**Comment by ericrbg** [comment]
> Given that everything apparently turned out to be true in NoZeroDivisor rings, I'd be interested to know if the preexisting lemmas in this file can be generalized along those lines.

I think this can wait for a followup PR, but yes:)

**Comment by ericrbg** [comment]
ok also the refactoring can, lmao it took me forever

<details>
<summary>if you want to see</summary>

```lean
lemma Subgroup.prod_top {α β : Type*} [Group α] [Fintype α] [Fintype (⊤ : Subgroup α)]
  [CommMonoid β] (f : α → β) : ∏ x : (⊤ : Subgroup α), f x = ∏ x : α, f x :=
  by simp [Finset.prod_set_coe]

lemma Subgroup.sum_top {α β : Type*} [Group α] [Fintype α] [Fintype (⊤ : Subgroup α)]
  [AddCommMonoid β] (f : α → β) : ∑ x : (⊤ : Subgroup α), f x = ∑ x : α, f x :=
  by simp [Finset.sum_set_coe]

-- how to make these a `to_additive` pair?

lemma prod_units_nonunits {α β : Type*} [Monoid α] [CommMonoid β] [Fintype α] [Fintype αˣ]
  [Fintype <| nonunits α] (f : α → β) :
    (∏ x : αˣ, f x) * ∏ x in (nonunits α).toFinset, f x = ∏ x : α, f x := by
  rw [←Finset.prod_set_coe, ←Fintype.prod_sum_elim]
  apply Fintype.prod_bijective (Sum.elim (· : αˣ → α) (· : nonunits α → α))
  swap; aesop
  refine ⟨?_, fun x ↦ ?_⟩
  · rintro (u | nu) (u | nu) h
    · exact congr(Sum.inl $(Units.ext h))
    · refine (nu.2 ?_).elim
      dsimp at h
      rw [←h]
      exact u.isUnit
    · refine (nu.2 ?_).elim
      dsimp at h
      rw [h]
      exact u.isUnit
    · refine congr(Sum.inr $(Subtype.ext h))
  · by_cases h : IsUnit x
    · exact ⟨.inl h.unit, rfl⟩
    · exact ⟨.inr ⟨x, h⟩, rfl⟩

lemma sum_units_nonunits {α β : Type*} [Monoid α] [AddCommMonoid β] [Fintype α] [Fintype αˣ]
  [Fintype <| nonunits α] (f : α → β) :
    (∑ x : αˣ, f x) + ∑ x in (nonunits α).toFinset, f x = ∑ x : α, f x :=
prod_units_nonunits (β := Multiplicative β) f

-- attribute [to_additive] prod_units_nonunits sum_units_nonunits
-- this is the "correct" additivization but not sure how to tell `to_additive` that

@[simp] lemma nonunits_eq_zero {G : Type*} [GroupWithZero G] : nonunits G = {0} :=
  Set.ext <| fun x ↦ by simpa [nonunits] using (isUnit_iff_ne_zero (a := x)).not

/-- The sum of `x ^ i` as `x` ranges over a finite field of cardinality `q`
is equal to `0` if `i < q - 1`. -/
theorem sum_pow_lt_card_sub_one (i : ℕ) (h : i < q - 1) : ∑ x : K, x ^ i = 0 := by
  by_cases hi : i = 0
  · simp only [hi, nsmul_one, sum_const, pow_zero, card_univ, cast_card_eq_zero]
  classical
  rw [←Fintype.card_units, ←Subgroup.card_top] at h
  have key := sum_subgroup_pow_eq_zero (K := K) (G := ⊤) hi (by convert h)
  erw [Subgroup.sum_top ((· : Kˣ → K) ^ i : Kˣ → K)] at key
  rw [←sum_units_nonunits, ← key]
  simp [hi]

#align finite_field.sum_pow_lt_card_sub_one FiniteField.sum_pow_lt_card_sub_one
```

</details>

so I'll do this in a separate PR tidying up the file

**Review by ericrbg — COMMENTED** [review]
lgtm - there will be tidying done on this file after! I think it will just blow up this PR's size

maintainer merge

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 17]
```diff
@@ -111,6 +111,105 @@ theorem prod_univ_units_id_eq_neg_one [CommRing K] [IsDomain K] [Fintype Kˣ] :
...
+  -- thus one of (a - 1) or ∑ G, x is zero
+  have hzero : (((a : Kˣ) : K) - 1) = 0 ∨ ∑ x : ↥G, ((x : Kˣ) : K) = 0 := by
+    rw [←mul_eq_zero, sub_mul, ← h_sum_map, one_mul, sub_self]
+  apply Or.resolve_left hzero
+  contrapose! ha
+  ext
+  rwa [←sub_eq_zero]
+
+/-- The sum of a subgroup of the units of a field is 1 if the subgroup is trivial and 1 otherwise -/
+theorem sum_subgroup_units [Ring K] [NoZeroDivisors K]
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Finite/Basic.lean:166]: This can be `simp` I guess.

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 18]
```diff
@@ -111,6 +111,105 @@ theorem prod_univ_units_id_eq_neg_one [CommRing K] [IsDomain K] [Fintype Kˣ] :
...
+    {G : Subgroup Kˣ} [Fintype G] [Decidable (G = ⊥)] :
+    ∑ x : G, (x.val : K) = if G = ⊥ then 1 else 0 := by
+  by_cases G_bot : G = ⊥
+  · subst G_bot
+    simp only [ite_true, Subgroup.mem_bot, Fintype.card_ofSubsingleton, Nat.cast_ite, Nat.cast_one,
+      Nat.cast_zero, univ_unique, Set.default_coe_singleton, sum_singleton, Units.val_one]
+  · simp only [G_bot, ite_false]
+    exact sum_subgroup_units_eq_zero G_bot
+
+theorem sum_subgroup_pow_eq_zero [CommRing K] [NoZeroDivisors K]
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Finite/Basic.lean:176]: Can also be `simp`.

File: Mathlib/GroupTheory/OrderOfElement.lean [hunk 19]
```diff
@@ -923,6 +923,12 @@ theorem orderOf_eq_card_zpowers : orderOf x = Fintype.card (zpowers x) :=
 #align order_eq_card_zpowers orderOf_eq_card_zpowers
 #align add_order_eq_card_zmultiples addOrderOf_eq_card_zmultiples
 
+@[to_additive card_zmultiples_le]
+theorem card_zpowers_le (a : G) (k : ℕ) (k_pos : k ≠ 0)
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/OrderOfElement.lean:927]:
```suggestion
theorem card_zpowers_le (a : G) {k : ℕ} (k_pos : k ≠ 0)
```

File: Mathlib/GroupTheory/Subgroup/Basic.lean [hunk 20]
```diff
@@ -932,16 +932,21 @@ theorem nontrivial_iff_exists_ne_one (H : Subgroup G) : Nontrivial H ↔ ∃ x 
 #align subgroup.nontrivial_iff_exists_ne_one Subgroup.nontrivial_iff_exists_ne_one
 #align add_subgroup.nontrivial_iff_exists_ne_zero AddSubgroup.nontrivial_iff_exists_ne_zero
 
+@[to_additive]
+theorem exists_ne_one_of_nontrivial {H : Subgroup G} [Nontrivial H] :
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Subgroup/Basic.lean:936]:
```suggestion
theorem exists_ne_one_of_nontrivial (H : Subgroup G) [Nontrivial H] :
```

File: Mathlib/GroupTheory/Subgroup/Basic.lean [hunk 21]
```diff
@@ -953,6 +958,11 @@ theorem bot_or_exists_ne_one (H : Subgroup G) : H = ⊥ ∨ ∃ x ∈ H, x ≠ (
 #align subgroup.bot_or_exists_ne_one Subgroup.bot_or_exists_ne_one
 #align add_subgroup.bot_or_exists_ne_zero AddSubgroup.bot_or_exists_ne_zero
 
+@[to_additive]
+lemma ne_bot_iff_exists_ne_one {H : Subgroup G} : H ≠ ⊥ ↔ ∃ a : ↥H, a ≠ 1 := by
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/Subgroup/Basic.lean:962]: In the previous iff lemma `H` is explicit: I don't have a preference, but it's better to stick to one convention.

**Review by riccardobrasca — APPROVED** [review]
A few comments and LGTM, thanks!

bors d+
